US06169091A
4-(4-Benzyloxyanilino)-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine
Prepared according to Procedure C from 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine and dimethylamine (33% aqueous solution); δH (CDCl3) 9.00 (1H,s), 8.52 (1H,s), 7.59 (2H,d), 7.40 (4H,m), 7.23 (1H,s), 7.13 (2H,d), 6.35 (1H,s), 5.10 (2H,s), 3.20 (6H,s); m/z (M+1)+395.

reactant | 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)Cl)C=C1 | C20H15ClN4O
reactant | dimethylamine | CNC | C2H7N
product | 4-(4-Benzyloxyanilino)-6-(N,N-dimethylamino)pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)N(C)C)C=C1 | C22H21N5O
